US04000142
3-Methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide
A solution of 3-methyl-5,6,7,8-tetrahydroquinoline (7.3 g., 0.05 mol.) in hexane (50 ml.) was cooled to 0° C and treated dropwise with stirring with a 15% w/w solution of butyl lithium in hexane (26 ml., 0.06 mol.) in an atmosphere of nitrogen. The reaction mixture was stirred at 0° C for an additional 1 hour and was added portionwise to a solution of trimethylsilylisothiocyanate (13.1 g., 0.1 mol.) in hexane (50 ml.) and under nitrogen keeping the internal temperature at -20° C. The reaction mixture was stirred for an additional 30 minutes at -20° C, allowed to warm to room temperature and diluted with water (50 ml.). The pH was adjusted to 2.0 with conc. HCl and the hexane layer separated and discarded. The aqueous solution was adjusted to pH 10.0 with sodium carbonate and extracted with ethyl acetate (3 × 50 ml.). The combined extracts were dried (MgSO4) and the solvent removed in vacuo. The residue was triturated with n-hexane and solid filtered and recrystallised from benzene to give the title compound as colourless needles (3.5 g., 39%) m.p. 153° identical in all respects to authentic material. (Found: C, 64.6; H, 7.0; N, 13.9%. C11H14N2S Requires: C, 64.1; H, 6.8; N, 13.6%). The hexane soluble material was distilled to give recovered 3-methyl-5,6,7,8-tetrahydroquinoline (3.5 g., 50%) b.p. 120°/15 mm.

reactant | 3-methyl-5,6,7,8-tetrahydroquinoline | 0.05 mol, 7.3 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | butyl lithium | C(CCC)[Li]
reactant | trimethylsilylisothiocyanate | 0.1 mol, 13.1 g | C[Si](C)(C)N=C=S | C4H9NSSi
reactant | HCl | Cl | ClH
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | water | 50 ml | O | H2O
solvent | hexane | 0.06 mol, 26 ml | CCCCCC | C6H14
product | 3-Methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | 3.5 g, 39% | CC=1C=NC=2C(CCCC2C1)C(N)=S | C11H14N2S
